US08580794B2
ethyl spiro[benzo[d][1,3]dioxole-2,1′-cyclohexane]-4′-carboxylate
To a solution of ethyl 4-oxocyclohexanecarboxylate (22.75 g) and pyrocatechol (14.75 g) in toluene (200 mL) was added catalytic amount of para-toluenesulfonic acid monohydrate and the mixture was stirred under reflux and a Dean-Stark trap overnight. The mixture was diluted with diethyl ether (600 mL) and washed with aqueous NaHCO3, water and brine. After drying over Na2SO4, the mixture was filtered and the solvent was evaporated under vacuum to provide the title compound.

reactant | ethyl 4-oxocyclohexanecarboxylate | 22.75 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | pyrocatechol | 14.75 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | para-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | ethyl spiro[benzo[d][1,3]dioxole-2,1′-cyclohexane]-4′-carboxylate | C12(CCC(CC1)C(=O)OCC)OC1=C(O2)C=CC=C1 | C15H18O4
